US07148236B2
To a mixture of 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl trifluoromethanesulfonate (0.4 g) and phenylboronic acid (0.25 g) in DMF (5 ml) were added triethylamine (0.58 ml) followed by dichlorobis(triphenylphosphine) palladium (II) (0.04 g). The solution was heated at 90° C. for 4 hours, cooled to room temperature and diluted with ethyl acetate. This was washed with saturated aqueous sodium hydrogen carbonate solution, then brine, dried (MgSO4), filtered and evaporated. Partial clean up was achieved using preparative LC-MS. The mixture was stirred with aqueous sodium hydroxide solution (0.5M) to hydrolyse residual triflate to the phenol. The product was extracted into ethyl acetate, still however contaminated with some of the phenol. The material was loaded onto a PE-AX column and eluted with methanol with the final clean up by preparative LC-MS to yield [1,1 ′-biphenyl]4-yl 8-methyl-8-azabicyclo[3.2. 1]oct-3-yl sulfide.

reactant | 4-[(8-methyl-8-azabicylo[3.2.1]oct-3-yl)thio]phenyl trifluoromethanesulfonate | 0.4 g | FC(S(=O)(=O)OC1=CC=C(C=C1)SC1CC2CCC(C1)N2C)(F)F | C15H18F3NO3S2
reactant | phenylboronic acid | 0.25 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 0.58 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1,1 ′-biphenyl]4-yl 8-methyl-8-azabicyclo[3.2. 1]oct-3-yl sulfide | CN1C2CC(CC1CC2)SC2=CC=C(C=C2)C2=CC=CC=C2 | C20H23NS
